### PR TITLE
[Merged by Bors] - feat(Padic/WithVal): Completion (WithVal v) is isomorphic to Q_p as fields and uniform spaces

### PR DESCRIPTION
**Pull request by pechersky**
On the way to a topological ring equiv

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/PadicNumbers.lean [hunk 1]
```diff
@@ -738,6 +738,11 @@ theorem rat_dense (q : ℚ_[p]) {ε : ℝ} (hε : 0 < ε) : ∃ r : ℚ, ‖q -
   let ⟨r, hr⟩ := rat_dense' q (ε := ε') (by simpa using hε'l)
   ⟨r, lt_trans (by simpa [Norm.norm] using hr) hε'r⟩
 
+lemma denseRange_ratCast : DenseRange (Rat.cast : ℚ → ℚ_[p]) := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Padics/PadicNumbers.lean]:
```suggestion
lemma denseRange_ratCast : DenseRange ((↑) : ℚ → ℚ_[p]) := by
```
It's probably the best way of spelling it.

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 2]
```diff
@@ -0,0 +1,181 @@
...
+/-!
+# Equivalence between `ℚ_[p]` and `WithVal v`
+
+-/
+
+variable {p : ℕ} [Fact p.Prime]
+
+open NNReal WithZero UniformSpace
+
+-- TODO: use Rat.padicValuation after #27667
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Padics/WithVal.lean]: #27667 is merged.

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 3]
```diff
@@ -0,0 +1,181 @@
...
+    (WithVal.equiv ((Padic.mulValuation (p := p)).comap (Rat.castHom ℚ_[p]))).toRingHom) := by
+  refine Padic.isUniformInducing_cast_withVal.isDenseInducing ?_
+  intro
+  -- nhds_discrete causes timeouts on TC search
+  simpa [-nhds_discrete] using Padic.denseRange_ratCast p _
+
+open Completion in
+open scoped Valued in
+/-- The p-adic numbers are isomophic as a field to the completion of the rationals at
+the p-adic valuation. -/
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Padics/WithVal.lean]:
```suggestion
/-- The `p`-adic numbers are isomophic as a field to the completion of the rationals at
the `p`-adic valuation. -/
```

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 4]
```diff
@@ -0,0 +1,181 @@
...
+  exact Completion.continuous_extension
+
+lemma Padic.uniformContinuous_withValRingEquiv_symm :
+    UniformContinuous (Padic.withValRingEquiv (p := p)).symm := by
+  suffices UniformContinuous (Padic.withValRingEquiv (p := p)).symm.toAddMonoidHom from this
+  exact uniformContinuous_uniformly_extend Padic.isUniformInducing_cast_withVal
+    (Padic.denseRange_ratCast p) (Completion.uniformContinuous_coe _)
+
+/-- The p-adic numbers are isomophic as uniform spaces to the completion of the rationals at
+the p-adic valuation. -/
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Padics/WithVal.lean]:
```suggestion
/-- The `p`-adic numbers are isomophic as uniform spaces to the completion of the rationals at
the `p`-adic valuation. -/
```

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 5]
```diff
@@ -0,0 +1,181 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yakov Pechersky
+-/
+import Mathlib.Analysis.RCLike.Basic
+import Mathlib.GroupTheory.ArchimedeanDensely
+import Mathlib.NumberTheory.Padics.PadicNumbers
+import Mathlib.Topology.Algebra.UniformRing
+import Mathlib.Topology.Algebra.Valued.ValuedField
+import Mathlib.Topology.Algebra.Valued.WithVal
+import Mathlib.Topology.GDelta.MetrizableSpace
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/WithVal.lean]:
```suggestion
import Mathlib.Analysis.RCLike.Basic
import Mathlib.GroupTheory.ArchimedeanDensely
import Mathlib.NumberTheory.Padics.PadicNumbers
import Mathlib.Topology.Algebra.Valued.ValuedField
import Mathlib.Topology.Algebra.Valued.WithVal
import Mathlib.Topology.GDelta.MetrizableSpace
```

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 6]
```diff
@@ -0,0 +1,181 @@
...
+# Equivalence between `ℚ_[p]` and `WithVal v`
+
+-/
+
+variable {p : ℕ} [Fact p.Prime]
+
+open NNReal WithZero UniformSpace
+
+-- TODO: use Rat.padicValuation after #27667
+lemma Padic.continuous_cast_withVal : Continuous ((Rat.castHom ℚ_[p]).comp
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/WithVal.lean]: All your lemmas start with Padic and are in _root. Why don't you just set 
```
namespace Padic
```
at the top?

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 7]
```diff
@@ -0,0 +1,181 @@
...
+  simpa [-nhds_discrete] using Padic.denseRange_ratCast p _
+
+open Completion in
+open scoped Valued in
+/-- The p-adic numbers are isomophic as a field to the completion of the rationals at
+the p-adic valuation. -/
+noncomputable
+def Padic.withValRingEquiv :
+    ((Padic.mulValuation (p := p)).comap (Rat.castHom ℚ_[p])).Completion ≃+* ℚ_[p] where
+  toFun := (Completion.extensionHom ((Rat.castHom ℚ_[p]).comp
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/WithVal.lean]:
```suggestion
  toFun := (extensionHom ((Rat.castHom ℚ_[p]).comp
```

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 8]
```diff
@@ -0,0 +1,181 @@
...
+  · simp only [Rat.cast_inv, Rat.cast_zpow, Rat.cast_natCast]
+    rw [inv_lt_inv₀, ← zpow_natCast, zpow_lt_zpow_iff_right₀]
+    · simpa [← Rat.cast_sub, hxy] using h
+    · exact_mod_cast Nat.Prime.one_lt Fact.out
+    · exact zpow_pos (by simp [Nat.Prime.pos Fact.out]) _
+    · exact pow_pos (by simp [Nat.Prime.pos Fact.out]) _
+
+lemma Padic.isUniformInducing_cast_withVal : IsUniformInducing ((Rat.castHom ℚ_[p]).comp
+    (WithVal.equiv ((Padic.mulValuation (p := p)).comap (Rat.castHom ℚ_[p]))).toRingHom) := by
+  constructor
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/WithVal.lean]: This proof uses (twice) a constructor to produce a term of a one-field structure, which is almost a defeq abuse. Is there a way you can use `Filter.HasBasis.isUniformInducing_iff`(together with `basis_sets`) to avoid this?

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 9]
```diff
@@ -0,0 +1,181 @@
...
+lemma Padic.isDenseInducing_cast_withVal : IsDenseInducing ((Rat.castHom ℚ_[p]).comp
+    (WithVal.equiv ((Padic.mulValuation (p := p)).comap (Rat.castHom ℚ_[p]))).toRingHom) := by
+  refine Padic.isUniformInducing_cast_withVal.isDenseInducing ?_
+  intro
+  -- nhds_discrete causes timeouts on TC search
+  simpa [-nhds_discrete] using Padic.denseRange_ratCast p _
+
+open Completion in
+open scoped Valued in
+/-- The p-adic numbers are isomophic as a field to the completion of the rationals at
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/WithVal.lean]:
```suggestion
  simpa [-nhds_discrete] using Padic.denseRange_ratCast p _

open Completion in
open scoped Valued in
/-- The p-adic numbers are isomorphic as a field to the completion of the rationals at
```

File: Mathlib/NumberTheory/Padics/WithVal.lean [hunk 10]
```diff
@@ -0,0 +1,181 @@
...
+import Mathlib.Analysis.RCLike.Basic
+import Mathlib.GroupTheory.ArchimedeanDensely
+import Mathlib.NumberTheory.Padics.PadicNumbers
+import Mathlib.Topology.Algebra.UniformRing
+import Mathlib.Topology.Algebra.Valued.ValuedField
+import Mathlib.Topology.Algebra.Valued.WithVal
+import Mathlib.Topology.GDelta.MetrizableSpace
+
+/-!
+# Equivalence between `ℚ_[p]` and `WithVal v`
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/WithVal.lean]: Can you expand this doc a bit more, saying what `v` is and detailling what equivalences (i.e. as what) are proven in the file?

**Review by faenuccio — COMMENTED** [review]
I left some comments.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
